US04742057
To 4-[4-(3-indolyl)piperidinomethyl]-2-(3-methoxycarbonylpropionylimino)-3-(3-methoxycarbonylpropionyl)thiazoline (700 mg) were added ethanol (25 ml) and 1N aqueous solution of sodium hydroxide (3.2 ml) and the mixture was warmed at 50° C. for 6.5 hours. To the reaction mixture was added 1N hydrochloric acid (3.2 ml) and the solvent was evaporated. After the residue was recrystallized from a mixture of ethanol and water, the crystal was collected by filtration and washed with water to give 4-[4-(3-indolyl)piperidinomethyl]-2-(3-carboxypropionylamino)thiazole (280 mg).

reactant | 4-[4-(3-indolyl)piperidinomethyl]-2-(3-methoxycarbonylpropionylimino)-3-(3-methoxycarbonylpropionyl)thiazoline | 700 mg | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N(C(SC1)=NC(CCC(=O)OC)=O)C(CCC(=O)OC)=O | C27H32N4O6S
reactant | sodium hydroxide | 3.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3.2 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-[4-(3-indolyl)piperidinomethyl]-2-(3-carboxypropionylamino)thiazole | 280 mg | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(CCC(=O)O)=O | C21H24N4O3S
